data/mechanism_extracts/OrgLett/10.1021_acs.orglett.8b04041.json
{"doi": "10.1021_acs.orglett.8b04041", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical oxidative radical selenylation/1,2-carbon migration of alkenylcyclobutanols with diselenides to give beta-selenyl cyclopentanones, which undergo Dowd-Beckwith ring expansion to cyclohexanones.", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "cation_initiated"], "electrochemical_role": "Anodic oxidation of diaryl diselenide to a diselenide radical cation that fragments to a selenyl radical (and selenyl cation); a further anodic oxidation converts the carbon-radical adduct to a carbocation that undergoes semipinacol 1,2-alkyl migration. Cathode reduces protons to H2.", "key_intermediates": [{"name": "diphenyl diselenide radical cation (I)", "smiles": "[c1ccccc1[Se][Se]c1ccccc1]_radcat", "role": "transient"}, {"name": "phenylselenyl radical (II)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "phenylselenyl cation (III)", "smiles": "[Se+]c1ccccc1", "role": "reactive"}, {"name": "carbon-centered radical from PhSe addition to alkenylcyclobutanol (IV)", "smiles": null, "role": "reactive"}, {"name": "tertiary benzylic carbocation on cyclobutanol (V)", "smiles": null, "role": "reactive"}, {"name": "alkoxy/oxocarbenium from PhSe+ addition (VI)", "smiles": null, "role": "transient"}, {"name": "beta-selenyl cyclopentanone (3a)", "smiles": "O=C1CCCC1(c1ccccc1)C[Se]c1ccccc1", "role": "reactive"}], "electron_flow": "Anode oxidizes PhSeSePh to a radical cation that cleaves to PhSe• and PhSe+; PhSe• adds to the vinyl group of the alkenylcyclobutanol forming a benzylic C-radical, which is further oxidized at the anode to a carbocation; 1,2-alkyl migration (semipinacol ring expansion of the cyclobutanol) gives the beta-selenyl cyclopentanone, while the cathode reduces H+ to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product formation suppressed to trace, supporting a radical intermediate"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Yield reduced to 62%, consistent with partial radical involvement"}, {"name": "1,1-diphenylethene", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Yield reduced to 57%, consistent with a radical pathway"}, {"name": "no current control", "smiles": null, "purpose": "other", "observation": "No reaction without applied current, confirming electrochemical initiation"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "Authors propose two competing pathways: favored path a involves PhSe• radical addition to the alkene followed by anodic oxidation to a cation and semipinacol 1,2-migration; alternative path b invokes nucleophilic attack of the alkenylcyclobutanol on PhSe+ (cation III) followed by 1,2-carbon migration, which could not be ruled out. CV showed oxidation peaks of 1a at 1.74 V and PhSeSePh (2a) at 1.33 V, consistent with diselenide being oxidized first. A subsequent radical-initiated Dowd-Beckwith ring expansion (Bu3SnH/AIBN) converts the beta-selenyl cyclopentanones to cyclohexanones."}
